* File: DFRQX1.pex.netlist.pex
* Created: Tue Jan 31 10:35:10 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFRQX1%D_VDD 1 4 8 12 18 22 26 34 56 57 58 59 60 61
c70 61 0 0.161548f
c71 60 0 0.183814f
c72 59 0 0.170081f
c73 58 0 0.154579f
c74 57 0 0.171701f
c75 56 0 0.151813f
c76 46 0 0.0772165f
c77 44 0 0.0772165f
c78 42 0 0.0701213f
c79 40 0 0.0772165f
c80 34 0 0.438769f
c81 26 0 0.407427f
c82 22 0 0.300374f
c83 18 0 0.312476f
c84 12 0 0.504481f
c85 8 0 0.301679f
c86 4 0 0.419203f
c87 1 0 0.140243f
r88 47 61 0.17
r89 45 60 0.08925
r90 45 46 0.00935391
r91 43 59 0.08925
r92 43 44 0.00935391
r93 41 58 0.17
r94 41 42 0.0120155
r95 39 57 0.08925
r96 39 40 0.00935391
r97 36 56 0.17
r98 27 46 0.0359928
r99 23 44 0.0359928
r100 22 46 0.0359928
r101 19 42 0.0329425
r102 18 44 0.0359928
r103 13 40 0.0359928
r104 12 42 0.0329425
r105 8 40 0.0359928
r106 1 47 0.0120155
r107 1 26 0.0329425
r108 1 30 0.0329425
r109 1 36 0.0120155
r110 1 4 0.0329425
r111 1 9 0.0329425
r112 1 34 0.14875
r113 1 30 0.102
r114 1 26 0.2295
r115 1 27 0.1275
r116 1 22 0.1955
r117 1 23 0.068
r118 1 18 0.119
r119 1 19 0.1615
r120 1 12 0.034
r121 1 13 0.153
r122 1 8 0.17
r123 1 9 0.102
r124 1 4 0.2295
.ends

.subckt PM_DFRQX1%nCLK 2 4 5 6 9 12 14 17 18 20 22 26 27 29 30 32 35 36 38 39 41
+ 43 46 47 48 49 51 53 56 58 59 60 61 64 66 67 70 75 77 84 85 86 88 94 96 100
c170 100 0 0.0309974f
c171 96 0 0.248721f
c172 94 0 0.10619f
c173 88 0 0.0476789f
c174 86 0 0.0202824f
c175 85 0 0.0518681f
c176 84 0 0.123882f
c177 77 0 0.0600114f
c178 75 0 0.00322295f
c179 71 0 0.0685456f
c180 70 0 0.0878352f
c181 69 0 0.112067f
c182 67 0 0.131197f
c183 66 0 0.279048f
c184 64 0 0.12102f
c185 61 0 0.105774f
c186 60 0 0.0813646f
c187 59 0 0.082434f
c188 58 0 0.161761f
c189 56 0 0.186996f
c190 53 0 0.157572f
c191 49 0 0.212505f
c192 48 0 0.0613333f
c193 47 0 0.573748f
c194 46 0 0.0796801f
c195 43 0 0.245184f
c196 41 0 0.0727352f
c197 39 0 0.367241f
c198 38 0 0.265425f
c199 36 0 0.267097f
c200 35 0 0.332801f
c201 30 0 0.21258f
c202 29 0 0.324412f
c203 27 0 0.124112f
c204 26 0 0.586847f
c205 22 0 0.217242f
c206 20 0 0.476932f
c207 18 0 0.211528f
c208 14 0 0.122079f
c209 12 0 0.402302f
c210 9 0 0.219546f
c211 6 0 0.0730731f
c212 5 0 0.19909f
c213 4 0 0.217772f
c214 2 0 0.101781f
r215 94 100 0.0566888
r216 91 92 7
r217 88 91 0.0141667
r218 84 96 15.7859
r219 83 86 0.0188889
r220 83 85 0.0519666
r221 83 84 7
r222 77 86 0.0216719
r223 76 91 0.0519666
r224 76 77 0.7225
r225 75 85 0.205417
r226 72 75 0.0474919
r227 72 100 0.085
r228 70 88 0.0216719
r229 70 71 0.3825
r230 69 71 0.0474919
r231 69 81 0.2125
r232 62 64 20.8333
r233 59 60 29.1667
r234 54 56 37.5
r235 52 53 62.5
r236 49 52 13.9682
r237 49 51 25
r238 47 53 13.9682
r239 47 48 150
r240 45 48 13.9682
r241 45 46 29.1667
r242 41 43 54.1667
r243 40 67 4.61203
r244 39 46 16.3376
r245 39 40 26
r246 38 41 13.9682
r247 37 67 9.91574
r248 37 38 83.3333
r249 36 66 24.4331
r250 35 67 4.61203
r251 35 36 20.8333
r252 34 61 7.28515
r253 34 66 95.8333
r254 30 64 1.46822
r255 30 32 45.8333
r256 29 62 1.46822
r257 28 61 6.02179
r258 28 29 106.25
r259 27 60 19.2859
r260 26 61 7.28515
r261 26 27 65.5
r262 20 92 45.089
r263 20 22 50
r264 19 58 2.17906
r265 18 59 16.469
r266 18 19 30
r267 17 96 45.8333
r268 14 58 11.2901
r269 13 14 43.75
r270 12 84 3.5
r271 11 58 11.2901
r272 11 12 42.5
r273 7 56 1.46822
r274 7 9 37.5
r275 5 13 13.9682
r276 5 6 43.75
r277 4 6 13.9682
r278 3 54 1.46822
r279 3 4 87.5
r280 2 81 0.0519666
.ends

.subckt PM_DFRQX1%D_GND 1 8 9 10 11 12 13 23 25 26 38 45 58 63
c51 63 0 0.644904f
c52 58 0 0.380268f
c53 45 0 0.393231f
c54 38 0 0.49344f
c55 26 0 0.325799f
c56 25 0 0.203373f
c57 24 0 0.0701213f
c58 23 0 0.323971f
c59 10 0 0.110837f
c60 8 0 0.14405f
c61 1 0 1.03492f
r62 49 64 0.0324446
r63 45 64 0.0324446
r64 25 28 0.000441044
r65 25 26 0.000441044
r66 23 24 0.0329425
r67 22 24 0.0329425
r68 14 24 0.0120155
r69 12 63 0.0416486
r70 11 58 0.0416486
r71 10 18 0.0802778
r72 9 25 0.108611
r73 8 14 0.146389
r74 1 13 0.0870902
r75 1 64 0.00217725
r76 1 12 0.0870238
r77 1 11 0.0465476
r78 1 18 0.0120155
r79 1 38 0.0329425
r80 1 42 0.0329425
r81 1 49 0.1445
r82 1 45 0.16575
r83 1 63 0.187
r84 1 58 0.136
r85 1 42 0.21675
r86 1 38 0.25075
r87 1 28 0.20825
r88 1 26 0.12325
r89 1 22 0.17425
r90 1 23 0.15725
.ends

.subckt PM_DFRQX1%CLK 2 5 8 9 12 14 17 19 21 23 24 26 29 30 33 35 36 37 39 43 53
+ 56 57 60 63 65 68 69 74
c152 74 0 0.174547f
c153 69 0 0.20355f
c154 68 0 0.385663f
c155 65 0 0.103858f
c156 63 0 0.170077f
c157 60 0 0.0478186f
c158 57 0 0.154858f
c159 56 0 0.0603096f
c160 53 0 0.0422888f
c161 43 0 0.128217f
c162 39 0 0.14021f
c163 37 0 0.0899509f
c164 36 0 0.0225708f
c165 35 0 0.0294194f
c166 33 0 0.06326f
c167 30 0 0.501216f
c168 29 0 0.151218f
c169 26 0 0.255105f
c170 24 0 0.0708061f
c171 23 0 0.178093f
c172 19 0 0.0810897f
c173 17 0 0.181545f
c174 14 0 0.684757f
c175 12 0 0.187673f
c176 9 0 0.247441f
c177 8 0 0.0899749f
r178 65 81 0.0320928
r179 63 78 15.2843
r180 62 63 7
r181 60 62 0.0579306
r182 57 74 15.2843
r183 56 59 0.0519666
r184 56 57 7
r185 52 68 15.2843
r186 51 53 0.0236111
r187 51 52 7
r188 48 51 0.0236111
r189 47 69 13.8889
r190 46 47 7
r191 39 60 0.0172428
r192 39 59 0.566667
r193 37 53 0.0216719
r194 36 46 0.0807342
r195 36 37 0.453333
r196 35 81 0.0228726
r197 34 48 0.0216719
r198 34 35 0.085
r199 33 46 0.0518226
r200 32 43 0.0216719
r201 32 33 0.432083
r202 24 26 66.6667
r203 23 24 13.9682
r204 23 78 58.3333
r205 21 74 37.5
r206 19 21 37.5
r207 16 19 13.9682
r208 16 17 62.5
r209 14 17 13.9682
r210 14 30 235.417
r211 12 31 37.5
r212 9 30 17.3676
r213 9 29 88.201
r214 8 31 17.0535
r215 8 9 37.5
r216 7 69 6.3741
r217 7 29 52.0833
r218 5 68 50
r219 2 43 0.0897222
.ends

.subckt PM_DFRQX1%nMQI 3 4 5 7 8 10 12 14 16 17 18 19 20 29 33 36 38 41 43 47 48
+ 51 55 61 64
c116 64 0 0.0946237f
c117 61 0 0.0604004f
c118 55 0 0.22451f
c119 51 0 0.23596f
c120 43 0 0.0739972f
c121 41 0 0.02472f
c122 38 0 0.0672165f
c123 36 0 0.0488474f
c124 33 0 0.113231f
c125 29 0 0.0739665f
c126 20 0 0.00824983f
c127 19 0 0.0243267f
c128 18 0 0.00642916f
c129 17 0 0.0299761f
c130 16 0 0.013801f
c131 14 0 0.0249516f
c132 12 0 0.090491f
c133 8 0 0.247167f
c134 5 0 0.185287f
r135 63 64 0.069317
r136 48 64 0.0519878
r137 47 61 0.0188889
r138 47 57 0.0188889
r139 42 55 15.2778
r140 41 43 0.0519666
r141 41 42 7
r142 37 51 20.8333
r143 36 38 0.0519666
r144 36 37 7
r145 33 34 0.0566667
r146 28 29 0.0330556
r147 24 63 0.0251761
r148 24 43 0.325833
r149 22 34 0.0216719
r150 22 38 0.34
r151 19 64 0.0251761
r152 19 20 0.325833
r153 17 33 0.0216719
r154 17 18 0.2125
r155 16 20 0.0474919
r156 15 61 0.0216719
r157 15 16 0.141667
r158 14 29 0.0216719
r159 13 18 0.0474919
r160 13 14 0.17
r161 12 57 0.0216719
r162 11 28 0.0216719
r163 11 12 0.609167
r164 8 55 6.3741
r165 8 10 45.8333
r166 5 51 6.3741
r167 5 7 25
r168 4 33 0.0425
r169 3 28 0.0377778
.ends

.subckt PM_DFRQX1%MQI 2 5 8 11 15 19 21 23 24 26 31 34 38 40 46 47 50 52 56 59
+ 64 68 70 72 73
c100 73 0 0.0827896f
c101 72 0 0.101093f
c102 70 0 0.227726f
c103 68 0 0.161039f
c104 64 0 0.305284f
c105 56 0 0.155514f
c106 52 0 0.0789347f
c107 50 0 0.0486332f
c108 47 0 0.151375f
c109 46 0 0.056899f
c110 40 0 0.0521901f
c111 38 0 0.163975f
c112 34 0 0.0502377f
c113 31 0 0.0941467f
c114 26 0 0.12165f
c115 24 0 0.0543005f
c116 23 0 0.0393354f
c117 21 0 0.0800713f
c118 19 0 0.219649f
c119 11 0 0.353506f
c120 8 0 0.0638111f
c121 5 0 0.319401f
r122 72 73 0.0377999
r123 59 72 0.0566667
r124 56 70 15.2843
r125 55 56 7
r126 52 55 0.0519444
r127 49 50 0.06375
r128 47 64 15.2843
r129 46 47 7
r130 43 46 0.0472222
r131 38 62 15.2843
r132 37 40 0.0519666
r133 37 38 7
r134 35 72 0.0216719
r135 34 52 0.0216719
r136 34 35 0.453333
r137 32 68 15.2843
r138 31 32 7
r139 29 31 0.122778
r140 27 50 0.00499195
r141 27 73 0.240833
r142 26 49 0.00499195
r143 25 43 0.0216719
r144 25 26 0.595
r145 24 43 0.0216719
r146 23 24 0.17
r147 21 49 0.0425
r148 21 40 0.23375
r149 19 68 50
r150 15 70 54.1667
r151 11 62 95.8333
r152 8 64 114.583
r153 3 8 13.9682
r154 3 5 87.5
r155 2 23 0.0300032
r156 2 29 0.0200021
.ends

.subckt PM_DFRQX1%nSQI 3 4 7 11 15 17 21 23 27 30 31 33 34 35 41 42 44 50 51 57
c82 57 0 0.16215f
c83 44 0 0.0857644f
c84 42 0 0.194548f
c85 41 0 0.080097f
c86 35 0 0.05367f
c87 34 0 0.127488f
c88 33 0 0.185819f
c89 31 0 0.139351f
c90 30 0 0.198569f
c91 27 0 0.0919559f
c92 23 0 0.063357f
c93 21 0 0.263201f
c94 17 0 0.211047f
c95 15 0 0.381753f
c96 11 0 0.279564f
c97 7 0 0.254298f
c98 3 0 0.179031f
r99 51 60 0.0357744
r100 47 57 15.2843
r101 47 54 6.94444
r102 46 47 7
r103 44 46 0.115161
r104 42 53 15.3186
r105 41 43 0.0756997
r106 41 42 7
r107 34 51 0.0601405
r108 33 44 0.0155962
r109 33 34 0.48875
r110 32 35 0.0216719
r111 31 43 0.0161702
r112 31 32 0.4675
r113 30 60 0.0330341
r114 30 39 0.566667
r115 28 50 0.028003
r116 27 60 0.0422533
r117 27 28 0.3825
r118 23 50 0.0220023
r119 19 21 54.1667
r120 17 19 13.9682
r121 17 57 37.5
r122 13 53 5.20398
r123 13 15 83.3333
r124 9 54 6.3741
r125 9 11 54.1667
r126 5 42 15.5874
r127 5 7 52.0833
r128 4 39 0.0519666
r129 4 35 0.0141667
r130 3 23 0.448611
.ends

.subckt PM_DFRQX1%SQI 2 5 7 9 12 14 25 27 28 31 32
c46 32 0 0.165154f
c47 31 0 0.214499f
c48 28 0 0.144775f
c49 27 0 0.25823f
c50 14 0 0.130369f
c51 12 0 1.07622f
c52 7 0 0.324028f
c53 2 0 0.10079f
r54 31 33 45.4876
r55 31 32 7
r56 25 32 0.116055
r57 19 28 4.16667
r58 19 27 15.2843
r59 18 19 7
r60 14 31 1.462
r61 13 16 1.04241
r62 13 14 25
r63 12 16 21.5517
r64 11 28 6.3741
r65 11 12 241.667
r66 7 33 3.13437
r67 7 9 79.1667
r68 5 27 62.5
r69 2 18 0.113333
.ends

.subckt PM_DFRQX1%Q 2 3 13 16
c7 16 0 0.37859f
c8 13 0 0.170454f
c9 8 0 0.224884f
c10 3 0 0.241617f
r11 11 16 0.335278
r12 9 13 0.0425
r13 9 11 0.00499195
r14 8 9 0.00499195
r15 7 8 0.184167
r16 3 7 0.0474919
r17 2 3 0.0708333
.ends

.subckt PM_DFRQX1%ICLK 3 6 7 9 12 16 19
c33 19 0 0.0595958f
c34 16 0 0.23825f
c35 12 0 0.196611f
c36 7 0 0.229624f
c37 6 0 0.277911f
c38 3 0 0.827017f
r39 16 21 18.0556
r40 15 19 0.0472222
r41 15 16 7
r42 10 12 39.5833
r43 7 12 1.46822
r44 7 9 41.6667
r45 6 10 1.46822
r46 5 21 6.3741
r47 5 6 81.25
r48 1 21 6.3741
r49 1 3 235.417
.ends

.subckt PM_DFRQX1%D 1 3 5 7 12 15 16 19 21 22 26 27 30
c65 30 0 0.104889f
c66 27 0 0.153674f
c67 26 0 0.0731572f
c68 21 0 0.11324f
c69 16 0 0.14945f
c70 15 0 0.0997962f
c71 12 0 0.117307f
c72 5 0 0.39379f
c73 1 0 0.344933f
r74 27 34 15.2843
r75 26 27 7
r76 23 26 0.0779167
r77 21 23 0.0074035
r78 21 22 0.25
r79 16 30 15.2843
r80 15 19 0.217222
r81 15 16 7
r82 13 22 0.0428586
r83 13 19 0.0472222
r84 12 34 41.6667
r85 9 30 37.5
r86 5 12 13.9682
r87 5 7 79.1667
r88 1 9 13.9682
r89 1 3 62.5
.ends

